US04172130
N-tert.-Butoxycarbonyl-L-norleucine pentafluorophenyl ester
10.0g (24.3 mmoles) of BOC--Nle--OH.DCHA are added to a mixture of 75 ml of ether and 25 ml of 2 n aqueous sulfuric acid, and the mixture is shaken until the dissolution is complete. The phases are separated, and the etheral solution is washed again with 25 ml of 2 n aqueous sulfuric acid and water. The etheral solution is evaporated in vacuo. The resulting 5.44 g of oily residue and 4.42 g (24 mmoles) of pentafluorophenol are dissolved in 30 ml of ethyl acetate, the solution is cooled to 0° C., and 4.63 g (22.5 mmoles) of dicyclohexyl carbodiimide are added. The suspension is allowed to stand at a cold place for 1 hour, thereafter it is filtered, and the filtrate is evaporated in vacuo. The residue is dissolved in 50 ml of n-hexane and the solution is washed with 5×20 ml of 5% aqueous sodium bicarbonate solution and 2×20 ml of water. The organic solution is dried and evaporated in vacuo. The oily residue solidifies upon cooling. 8.12 g (91%) of BOC--Nle--OPFP are obtained; m.p.: 55°-57° C., [α]D : -26.8° (c=1.0, in dioxane), Rf2 =0.80Rf4 =0.85.

reactant | BOC--Nle--OH.DCHA | 24.3 mmoles, 10.0g | CCCCC(C(=O)O)NC(=O)OC(C)(C)C.C1CCC(CC1)NC2CCCCC2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | pentafluorophenol | 24 mmoles, 4.42 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexyl carbodiimide | 22.5 mmoles, 4.63 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ether | 75 ml | CCOCC | C4H10O
product | N-tert.-Butoxycarbonyl-L-norleucine pentafluorophenyl ester | FC1=C(C(=C(C(=C1OC([C@@H](NC(=O)OC(C)(C)C)CCCC)=O)F)F)F)F | C17H20F5NO4
